US05206235
Step A: 2(R)-(t-Butoxycarbonylamino)butanoic acid
(R)-2-Aminobutanoic acid (1.03 g, 10.0 mmol) suspended in 5 mL methylene chloride was treated with 2.3 mL of di-t-butyl-dicarbonate (2.18 g, 10.0 mmol, 1 eq) and 4 mL of diisopropylethylamine (2.83 g, 23 mmol, 2.3 eq). The mixture was stirred at room temperature for 16 hours then extracted with 30 mL saturated aqueous sodium bicarbonate. The aqueous layer was washed with 20 mL of methylene chloride then removed and acidified to pH 2 by dropwise addition of saturated aqueous potassium hydrogen sulfate. The mixture was extracted with ethyl acetate (2×20 mL); the combined extracts were dried over magnesium sulfate, filtered and solvents removed under vacuum to afford 451 mg (2.2 mmol, 22%) of product. 1H NMR (200 MHz, CDCl3): 0.93 (t,8 Hz,3H), 1.40 (s,9H), 1.6-2.0 (m,2H), 4.25 (m,1H), 5.10 (br d,7 Hz,1H), 6.45 (br s,1H).

reactant | (R)-2-Aminobutanoic acid | 10.0 mmol, 1.03 g | N[C@@H](C(=O)O)CC | C4H9NO2
reactant | di-t-butyl-dicarbonate | 10.0 mmol, 2.3 mL, 2.18 g, 1 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 23 mmol, 4 mL, 2.83 g, 2.3 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2(R)-(t-Butoxycarbonylamino)butanoic acid | 2.2 mmol, 451 mg, 22% | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC | C9H17NO4
